US04979978
Preparation of (2-Hydroxy-5-methylphenyl)-(2-hydroxyphenyl)methane
(3-t-Butyl-2-hydroxy-5-methylphenyl)-(2-hydroxyphenyl)methane (4.34 g, 16 mmol) was combined with 3.2 g (24 mmol) of aluminum chloride and 100 ml of benzene and the mixture heated at reflux with stirring for 24 hours. It was then allowed to cool and was poured onto an ice-water mixture. The organic phase was collected and extracted with water and then 1N potassium hydroxide. The alkaline extract was acidified and then extracted with ether. The ether extract was dried with magnesium sulfate and the volatiles removed by evaporation under reduced pressure to obtain 1.66 g (48 percent of theory) of the title compound as an oil. The proton nmr spectrum was consistent with the assigned structure.

reactant | (3-t-Butyl-2-hydroxy-5-methylphenyl)-(2-hydroxyphenyl)methane | 16 mmol, 4.34 g | C(C)(C)(C)C=1C(=C(C=C(C1)C)CC1=C(C=CC=C1)O)O | C18H22O2
reactant | aluminum chloride | 24 mmol, 3.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | (2-Hydroxy-5-methylphenyl)-(2-hydroxyphenyl)methane | OC1=C(C=C(C=C1)C)CC1=C(C=CC=C1)O | C14H14O2
